US07632531B2
N-cyclopropyl 3-(3-cyclohexenyl)-2E-propenamide
3-(3-Cyclohexenyl)-2E-propenoic acid 1 eq, ethyl chloroformate 1.5 eq, triethylamine 1.5 eq, cyclopropylamine 1.6 eq, quench with 10% sodium chloride solution, yield=69%.

reactant | 3-(3-Cyclohexenyl)-2E-propenoic acid | 1 eq | C1(CC=CCC1)/C=C/C(=O)O | C9H12O2
reactant | ethyl chloroformate | 1.5 eq | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 1.6 eq | C1(CC1)N | C3H7N
reactant | sodium chloride | [Cl-].[Na+]
product | N-cyclopropyl 3-(3-cyclohexenyl)-2E-propenamide | yield=69% | C1(CC1)NC(\C=C\C1CC=CCC1)=O | C12H17NO
